data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_165994_1,[C:1](/[C:2]([N:3]([H:8])[H:9])=[C:5]([C:7](=[C:6](/[N:4]([H:10])[H:11])[H:13])\[H:14])/[H:12])([H:15])([H:16])[H:17]>>[C:1]([C@@:2]1([N:3]([H:8])[H:9])[C:5]([H:12])=[C:7]([H:14])[C@@:6]1([N:4]([H:10])[H:11])[H:13])([H:15])([H:16])[H:17],50.70011750001143
MR_589180_0,[C:1]([C:2]([H:14])([H:15])[H:16])(/[C:4](=[C:6](\[C:3]([H:17])([H:18])[H:19])[H:13])[O:8][H:10])([N:5]([H:11])[H:12])[O:7][H:9]>>[C:1]1([C:2]([H:14])([H:15])[H:16])([N:5]([H:11])[H:12])[C:4]([O:7][H:9])([O:8][H:10])[C:6]1([C:3]([H:17])([H:18])[H:19])[H:13],46.03151749999199
MR_316917_1,[C:1](/[C:4](=[C:3](/[N:2]([N:5]([H:9])[H:10])[H:8])[N:6]([H:11])[H:12])[N:7]([H:13])[H:14])([H:15])([H:16])[H:17]>>[C:1]([C:4]([C:3]1([N:6]([H:11])[H:12])[N:2]([H:8])[N:5]1[H:9])([N:7]([H:13])[H:14])[H:10])([H:15])([H:16])[H:17],65.52103999997357
MR_278027_1,[C:1](\[C:2]([C:5]([C:3]([H:18])([H:19])[H:20])([C:4]([N:6]([H:11])[H:12])=[O:9])[N:8]([H:13])[H:15])([H:16])[H:17])(=[N:7]/[H:14])[H:10]>>[C:1]([C:2](/[C:5]([C:3]([H:18])([H:19])[H:20])=[N:8]/[H:15])([H:16])[H:17])([C:4]([N:6]([H:11])[H:12])=[O:9])([N:7]([H:13])[H:14])[H:10],58.63422750002584
MR_47236_0,[C:1]([C:2]([O:6]/[C:4](=[C:5](/[N:3]([H:8])[H:9])[H:11])[H:10])=[O:7])([H:12])([H:13])[H:14]>>[C:1]([C:2]([C:5]([N:3]([H:8])[H:9])([C:4](=[O:6])[H:10])[H:11])=[O:7])([H:12])([H:13])[H:14],52.28643750003698
MR_528630_0,[C:1]([C:4](=[C:2](\[N:6]([H:13])[H:14])[O:8][H:10])/[C:3]([N:7]([H:15])[H:16])=[N:9]/[N:5]([H:11])[H:12])([H:17])([H:18])[H:19]>>[C:1]([C:4]1=[C:3]([N:7]([H:15])[H:16])[N:9]([N:5]([H:11])[H:12])[C:2]1([N:6]([H:13])[H:14])[O:8][H:10])([H:17])([H:18])[H:19],30.831584999988024
MR_278983_1,[C:1](/[C:3]([N:5]([H:10])[H:11])=[N:7]/[O:6][H:9])([C:4]([C:2]([H:14])([H:15])[H:16])=[O:8])([H:12])[H:13]>>[C:1](=[C:3]([N:5]([H:10])[H:11])[N:7]([C:4]([C:2]([H:14])([H:15])[H:16])=[O:8])[O:6][H:9])([H:12])[H:13],54.46448999999532
MR_358102_1,[C:1](\[C:3]([H:17])([H:18])[H:19])(=[C:5](\[C:2]([H:14])([H:15])[H:16])[C:6]([C:4]([H:20])([H:21])[H:22])([N:7]([H:11])[H:12])[C:8](=[C:9]([H:23])[H:24])[H:13])[H:10]>>[C:1]([C:3]([H:17])([H:18])[H:19])(/[C:5]([C:2]([H:14])([H:15])[H:16])=[C:6](/[C:4]([H:20])([H:21])[H:22])[N:7]([H:11])[H:12])([C:8](=[C:9]([H:23])[H:24])[H:13])[H:10],64.77619749999931
MR_333515_0,[N:1]1([H:11])[C:2]([O:6][H:9])[C:3]([O:7][H:10])=[N:8][C:4]1[N:5]([H:12])[H:13]>>[N:1]1([H:11])[C@@:2]2([O:6][H:9])[C:3]([O:7][H:10])=[N:8][C@@:4]12[N:5]([H:12])[H:13],72.78498000003921
MR_201461_0,[C:1](=[C:2](/[C:4]([H:12])([H:13])[H:14])[H:9])(\[C:3]([N:7]1[N:5]=[N:6]1)([H:10])[H:11])[H:8]>>[C:1]12([H:8])[C:2]([C:4]([H:12])([H:13])[H:14])([H:9])[N:5]1[N:6]=[N:7][C:3]2([H:10])[H:11],69.42346250003695
MR_386117_1,[C:1]1([H:12])([H:13])[C:4](=[C:7]([H:15])[H:16])[N:2]([N:5]([H:10])[H:11])[C:3]([O:8][H:9])=[C:6]1[H:14]>>[C:1]1([H:12])([H:13])[C:4](=[C:7]([H:15])[H:16])[C:6]1(/[C:3](=[N:2]/[N:5]([H:10])[H:11])[O:8][H:9])[H:14],67.17513000000636
MR_635726_1,[C:1](/[C:6](=[C:3](/[N:2](/[C:4]([C:5](=[O:9])[H:13])=[N:8]\[H:12])[H:11])[O:7][H:10])[H:14])([H:15])([H:16])[H:17]>>[C:1]([C:6]([C:3]1([O:7][H:10])[N:2]([H:11])/[C:4]1=[N:8]\[H:12])([C:5](=[O:9])[H:13])[H:14])([H:15])([H:16])[H:17],69.77737249999947
MR_438435_0,[C:1](/[C:3]([C:2]([H:15])([H:16])[H:17])=[C:5](\[N:4]([H:8])[H:9])[H:13])(/[C:6](=[N:7]\[H:10])[H:14])([H:11])[H:12]>>[C:1](=[C:3]([C:2]([H:15])([H:16])[H:17])[C:5]([N:4]([H:8])[H:9])(/[C:6](=[N:7]\[H:10])[H:14])[H:13])([H:11])[H:12],66.4723299999973
MR_68648_1,[C:1]([N:2]([H:6])[H:7])([C:3](=[C:5]([H:11])[H:12])[H:8])=[C:4]([H:9])[H:10]>>[C:1]1([N:2]([H:6])[H:7])=[C:3]([H:8])[C:5]([H:11])([H:12])[C:4]1([H:9])[H:10],43.65517499999925
MR_397067_1,[C:1]([C:6]([C:2]([H:17])([H:18])[H:19])=[C:8]([N:4](/[C:5]([N:7]([H:11])[H:12])=[C:9](\[C:3]([H:21])([H:22])[H:23])[H:14])[H:10])[H:13])([H:15])([H:16])[H:20]>>[C:1](=[C:6]([C:2]([H:17])([H:18])[H:19])[C:8]1([H:13])[N:4]([H:10])[C:5]1([N:7]([H:11])[H:12])[C:9]([C:3]([H:21])([H:22])[H:23])([H:14])[H:15])([H:16])[H:20],72.81949249998775
MR_140491_0,[C:1]([C:3]([O:7][H:9])=[O:8])(/[C:4]([C:2]([H:15])([H:16])[H:17])=[C:6](/[N:5]([H:10])[H:11])[H:14])([H:12])[H:13]>>[C:1]1([H:12])([H:13])[C@@:4]([C:2]([H:15])([H:16])[H:17])([C:3]([O:7][H:9])=[O:8])[C@@:6]1([N:5]([H:10])[H:11])[H:14],69.65689249998263
MR_131610_0,[C:1]([C:3]([O:5][O:6][C:2]([H:12])([H:13])[H:14])=[O:7])([N:4]([H:8])[H:9])([H:10])[H:11]>>[C:1]([N:4]([H:8])[H:9])([O:5][C:3]([O:6][C:2]([H:12])([H:13])[H:14])=[O:7])([H:10])[H:11],30.09552750002726
MR_425033_0,[C:1](=[C:5]([C:4]([N:3]([C:2]([H:14])([H:15])[H:16])[H:10])([O:6][H:8])[O:7][H:9])[H:13])([H:11])[H:12]>>[C:1]([N:3]([C:2]([H:14])([H:15])[H:16])[H:10])([C:5](=[C:4]([O:6][H:8])[O:7][H:9])[H:13])([H:11])[H:12],68.71940749999538
MR_300604_2,[C:1]1([O:7][H:9])([H:10])[C:6]([C:4]([H:17])([H:18])[H:19])([N:5]([C:2]([H:11])([H:13])[H:14])[C:3]([H:12])([H:15])[H:16])[O:8]1>>[C:1]([N:5]([C:2]([H:11])([H:13])[H:14])[C:3]([H:12])([H:15])[H:16])([C:6]([C:4]([H:17])([H:18])[H:19])=[O:8])([O:7][H:9])[H:10],36.85307499998032
